US09290517B2
2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetamide
Triethylamine (7 μl, 0.050 mmol) was added to a stirred solution of 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetic acid (7.7 mg, 0.015 mmol) in 1,2-dimethoxyethane (0.3 ml). The reaction mixture was cooled to 0° C. in an ice bath prior to the addition of ethyl chloroformate (4.5 μl, 0.047 mmol). After an hour, ammonia was blown into the reaction for 5 minutes. The reaction mixture was removed from the ice bath and allowed to warm to room temperature. After 40 minutes, the reaction mixture was evaporated under reduced pressure to give a white residue. 1,2-Dimethoxyethane (0.4 ml) and triethylamine (0.14 ml, 1.00 mmol) were combined with the residue and the resulting suspension was cooled to 0° C. in an ice bath. Ethyl chloroformate (0.09 ml, 0.937 mmol) was added to the reaction mixture dropwise. After half an hour, ammonia was blown into the reaction for five minutes. The reaction mixture was removed from the ice bath and allowed to warm to room temperature. After 20 minutes, potassium trimethylsilanolate (23.2 mg, 0.181 mmol) was added to the reaction mixture. After 40 minutes, additional potassium trimethylsilanolate (50.8 mg, 0.396 mmol) was added to the reaction mixture. After an additional 1 hour, 5N NaOH (0.2 ml, 1.000 mmol) was added to the reaction mixture. After 1.5 hours, MeOH (0.5 ml) was added to the reaction mixture. After 16 hours, the reaction mixture was evaporated under reduced pressure to give a white solid. The solid was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient followed by a 80% acetonitrile/water+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C26H23ClN4O5 506.14 observed m/e: 507.21 (M+H)+ (Rt 1.16/2 min); 1H NMR δ (ppm) (CD3OD): 7.87 (s, 1H), 7.73-7.76 (m, 4H), 7.71 (d, J=7.9 Hz, 2H), 7.48 (t, J=7.7 Hz, 2H), 7.37 (t, J=7.4 Hz, 1H), 5.57 (qt, J=5.3 Hz, J=10.7 Hz, 1H), 5.01 (t, J=5.4 Hz, 1H), 4.31 (d, J=4.9 Hz, 1H), 4.14-4.20 (m, 2H), 3.76 (abqt, J=8.7 Hz, J=22.4 Hz, 2H), 2.48-2.55 (m, 2H).

reactant | Triethylamine | 0.050 mmol, 7 μl | C(C)N(CC)CC | C6H15N
reactant | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetic acid | 0.015 mmol, 7.7 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC(=O)O | C26H22ClN3O6
reactant | ethyl chloroformate | 0.047 mmol, 4.5 μl | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
reactant | triethylamine | 1.00 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 0.937 mmol, 0.09 ml | ClC(=O)OCC | C3H5ClO2
reactant | potassium trimethylsilanolate | 0.181 mmol, 23.2 mg | C[Si]([O-])(C)C.[K+]
reactant | potassium trimethylsilanolate | 0.396 mmol, 50.8 mg | C[Si]([O-])(C)C.[K+]
reactant | NaOH | 1.000 mmol, 5N, 0.2 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 0.3 ml | COCCOC | C4H10O2
solvent | 1,2-Dimethoxyethane | 0.4 ml | COCCOC | C4H10O2
solvent | MeOH | 0.5 ml | CO | CH4O
product | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetamide | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC(=O)N | C26H23ClN4O5
